Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Volume overload 
 
Major Surgical or Invasive Procedure:
Paracentesis ___
Paracentesis ___
Paracentesis ___
Paracentesis ___
Paracentesis ___
Paracentesis ___
Cardiac catheterization
HD line placement
CVL placement
A-line placement

 
History of Present Illness:
___ year old with CAD, hypertension, atrial fibrillation not on 
Coumadin, type 2 DM, and ___ Class C cirrhosis secondary 
to non-alcoholic steatohepatitis complicated by recurrent 
ascites, no reported varices, ?GI bleed, and hepatic 
encephalopathy presenting from clinic with volume overload.

Pt was initially seen by Dr. ___ in clinic ___ for 
consideration of TIPS. He was subsequently sent to transplant 
clinic for workup of possible transplant given the risk of 
decompensation secondary to a TIPS procedure. Today, he 
presented to clinic to see Dr. ___ was noted to be volume 
overloaded with massive ascites and failure to thrive. He was 
subsequently admitted directly from clinic to the ET service 
with plans for aggressive volume management and TIPS.

On presentation to the floor, pt reports that over the past few 
months he has had increasing ascites, and overall general 
worsening with fatigue and weakness. Since ___ he has been 
having regular paracenteses, first biweekly and now up to one 
time per week. His last paracentesis was 4 days ago, and 6 
liters were drained. He has had no recent confusion, no nausea 
or vomiting, no melena. His bowel movements are normal (loose). 
  
 
Past Medical History:
Child C cirrhosis ___ nonalcoholic steatohepatitis
Atrial fibrillation: off Coumadin after having a 
supratherapeutic INR and ?blood loss in ___
T2DM on insulin
CAD
HTN
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  T97.5 BP119/69 HR62 RR18 O2100 RA
General: lying in bed, appears tired, NAD.
HEENT: anicteric sclerae; MMM.
Neck: no appreciable JVD.
CV: regular rate and rhythm (not in afib), normal S1 and S2
Lungs: CTAx2 with good air movement 
Abdomen: distended, tense, nontender, +fluid wave
Ext: nonedematous; nontender.
Neuro: AOx3, no asterixis
Skin: no jaundice

DISCHARGE PHYSICAL EXAM
Patient deceased

 
Pertinent Results:
ADMISSION LABS
___ 07:36PM BLOOD WBC-8.6 RBC-3.82* Hgb-11.7* Hct-35.6* 
MCV-93 MCH-30.6 MCHC-32.9 RDW-15.3 RDWSD-52.3* Plt ___
___ 07:36PM BLOOD ___ PTT-38.5* ___
___ 07:36PM BLOOD Glucose-230* UreaN-68* Creat-2.0* Na-125* 
K-5.2* Cl-93* HCO3-21* AnGap-16
___ 07:36PM BLOOD ALT-22 AST-45* AlkPhos-84 TotBili-1.2
___ 07:36PM BLOOD Albumin-3.6 Calcium-9.6 Phos-3.6 Mg-2.1

PERTINENT INTERMITTENT LABS
___ 03:10AM BLOOD Lipase-131*
___ 11:54AM BLOOD CK-MB-1 cTropnT-0.02*
___ 02:05PM BLOOD CK-MB-1 cTropnT-<0.01
___ 10:17PM BLOOD Hapto-22*
___ 07:21AM BLOOD D-Dimer-GREATER TH
___ 03:55AM BLOOD Triglyc-174*
___ 03:10AM BLOOD Triglyc-188*
___ 09:41AM BLOOD TSH-0.92
___ 01:01PM BLOOD PTH-17
___ 09:41AM BLOOD T4-2.5*
___ 06:14AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE
___ 10:42AM BLOOD PEP-NO SPECIFI IgG-762 IgA-319 IgM-59 
IFE-NO MONOCLO
___ 04:30AM BLOOD HIV Ab-Negative
___ 06:14AM BLOOD HCV Ab-NEGATIVE

DISCHARGE LABS
___ 03:10AM BLOOD WBC-12.2* RBC-UNABLE TO  Hgb-UNABLE TO  
Hct-36.0* MCV-UNABLE TO  MCH-UNABLE TO  MCHC-UNABLE TO  
RDW-UNABLE TO  RDWSD-UNABLE TO  Plt Ct-72*
___ 03:10AM BLOOD ___
___ 03:10AM BLOOD Glucose-317* UreaN-49* Creat-2.4* Na-132* 
K-3.8 Cl-92* HCO3-20* AnGap-24
___ 03:10AM BLOOD ALT-29 AST-121* AlkPhos-105 TotBili-34.5*
___ 03:10AM BLOOD Calcium-8.8 Phos-3.6 Mg-2.7*

MICRO:

___ 3:09 pm PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

___ 4:30 am Blood (EBV)

                            **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

___ 8:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
         AZTREONAM REQUESTED PER ___ ___ (___) 
___. 
         SENSITIVE TO AZTREONAM sensitivity testing performed by 
___
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 12:55 am URINE     Site: NOT SPECIFIED

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      SERRATIA MARCESCENS.    >100,000 ORGANISMS/ML.. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
         AZTREONAM Susceptibility testing requested by ___. 
___ ___
         ___.  SENSITIVE TO AZTREONAM. 
         AZTREONAM sensitivity testing performed by ___. 


                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             SERRATIA MARCESCENS
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------   256 R
TOBRAMYCIN------------     2 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 2:19 am SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH 
PSEUDOHYPHAE. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      Due to mixed bacterial types ( >= 3 colony types) an 
abbreviated
      workup will be performed appropriate to the isolates 
recovered from
      this site. 
      YEAST.    SPARSE GROWTH. 
      GRAM NEGATIVE ROD(S).    RARE GROWTH. 
      STAPH AUREUS COAG +.    RARE GROWTH. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------       R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

___ 6:29 pm BRONCHOALVEOLAR LAVAGE

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   BUDDING YEAST. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      YEAST.    10,000-100,000 ORGANISMS/ML.. 

   FUNGAL CULTURE (Preliminary): 
      YEAST. 

   NOCARDIA CULTURE (Preliminary):    NO NOCARDIA ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


DIAGNOSTICS AND IMAGING
RUQ w/ Doppler ___: 
IMPRESSION:  
Cirrhotic appearing liver with large ascites and splenomegaly.  
No suspicious masses.  Patent hepatic vasculature. 
Cholelithiasis. 

Renal US ___:
IMPRESSION:  
1.  No evidence of hydronephrosis.   
2.  Cirrhosis with large amount of intra-abdominal ascites. 

CXR ___:
IMPRESSION:  
In comparison with the study of ___, there are again low 
lung volumes that accentuate the transverse diameter of the 
heart.  Continued increased opacification at the left base, 
consistent with pleural effusion and compressive basilar 
atelectasis.  Mild indistinctness of pulmonary vessels could 
reflect some elevated pulmonary venous pressure.  The ___ 
tube appears unchanged

CT A/P ___. 24 cm right retroperitoneal hematoma secondary to a right 
common femoral artery pseudoaneurysm measuring 2.2 cm with a 
neck of 0.2 cm and another component of the pseudoaneurysm just 
superiorly measuring 3 cm. 
2. Cirrhosis, ascites and splenomegaly. 
3. Cholelithiasis. 
4. Moderate right pleural effusion and bibasilar atelectasis. 

___ Arteriogram
1. Punctate foci of active extravasation from the right L3 and 
L4 lumbar 
arteries, treated with Gelfoam and coil embolization, with good 
angiographic result. 
2. The right lateral circumflex artery was in proximity to the 
known area of bleeding, and was Gel-Foam and coil embolized, 
with good angiographic result. 
3. The previously identified right common femoral artery 
pseudoaneurysm 
remains thrombosed, with a tiny area (2-3 mm) of residual 
pseudoaneurysm, too small to treat.  This will likely thrombose 
on its own. 
4. A small 4 mm pseudoaneurysm identified arising from the left 
SFA on left CFA angiography at the site of the arterial pressure 
line entry was too small to treat, and appeared thrombosed with 
ultrasound at the conclusion of the case. 

___ CT A/P
IMPRESSION:  
  
1.  Stable size of large right retroperitoneal hematoma status 
post coil 
embolization of right lumbar arteries and right lateral 
circumflex artery.  No evidence of active extravasation. 
2.  Cirrhosis with sequelae of portal hypertension including 
splenomegaly, 
ascites and perigastric varices. 
3.  No drainable fluid collection identified.  No evidence of 
bowel ischemia. 
4.  Tiny 6 mm pseudoaneurysm arising from the left superficial 
femoral artery just distal to its origin.  The pseudoaneurysm is 
superior to the site of active extravasation seen on ___. 

___ CT Chest
IMPRESSION:  
1.  Small bilateral pleural effusions with adjacent 
consolidation, which 
appears to be predominantly atelectasis.  A component of 
infection may also be present. 
2.  CT abdomen/pelvis reported separately. 

___ CT Head
1. Severely motion limited examination demonstrating no acute 
large 
intracranial abnormality. 
2. Fluid in the posterior nasopharynx and mastoid air cells 
bilaterally.

___ CT A/P
IMPRESSION: 
1. Large right retroperitoneal hematoma is similar in appearance 
to prior 
examination given redistribution.  No evidence of active bleed. 
2. No findings to suggest infection in the abdomen or pelvis. 

___ CT Chest
IMPRESSION:  
No evidence of active intrathoracic infection or malignancy. 
Small bilateral effusions with persistent left left lower lobe 
collapse and right basal atelectasis with increasing 
endobronchial secretions in the lower lobes. 

 

 
Brief Hospital Course:
___ year old with ___ Class C cirrhosis secondary to NASH 
presenting from clinic with volume overload, sarcopenia, and 
question of possible TIPS for refractory ascites.

FLOOR COURSE:
Patient was admitted with diuretic refractory ascites. He was 
admitted for paracenteses and evaluation for TIPS and future 
transplant. The transplant team made the initial decision that 
the patient is not a TIPS or transplant candidate because of 
severe malnutrition, and goal became to improve nutritional 
status and then proceed.

The patient's renal function began to worsen, and workup was 
consistent with hepatorenal syndrome. Nephrology was consulted, 
and agreed with HRS as the diagnosis, and he was started on 
midodrine, octreotide and daily albumin. As his renal failure 
progressed, he required dialysis and had a dialysis line placed 
___. His worsening renal function led to the decision to 
expedite his transplant eligibility. Because he has a history of 
CAD and is s/p 2 stents from ___, he had to undergo a cardiac 
catheterization for evaluation of CAD and transplant 
eligibility. He went for cardiac cath on ___, which found no 
interventional lesions. However, the day after the procedure he 
developed a retroperitoneal bleed, which led to transfer to the 
ICU.

MICU COURSE:

# Shock: Initially secondary to hemorrhagic shock due to 
retroperitoneal bleed requiring massive transfusion protocol on 
arrival to the MICU. He was resuscitated though subsequently had 
ongoing septic shock physiology requiring pressor support. 
Etiology of septic shock was secondary to new infections 
including serratia UTI, E.coli bacteremia, MSSA VAP. Despite 
completing a course of antibiotics (Vanc/Meropenem) for all of 
these infections by ___ he had a persistent and rising 
leukocytosis. Infectious disease was consulted for assistance 
with workup and management. Micafungin was added for empiric 
fungal coverage. His HD line (placed in the setting of renal 
failure as below) was removed. Pus was noted around the 
insertion site, suggesting a line infection as a possible 
contributing source. Blood cultures, however, remained negative. 
Peritoneal fluid was also not suggestive of infection. Note is 
made of peritoneal fluid from ___, which appears inflammatory, 
despite correction for RBC count. Cultures were negative, 
however and subsequent pleural fluid did not suggest spontaneous 
or secondary bacterial peritonitis.  Alternative etiology 
potentially secondary to persisent gut translocation into the 
peritoneal space. His leukocytosis downtrended without a clear 
source of ongoing infection. 

# Respiratory failure: Mr. ___ was initially intubated in the 
setting of hemorrhagic shock and metabolic acidosis. His course 
was then complicated by MSSA VAP. After correction of metabolic 
acidosis he remained intubated in the setting of altered mental 
status, volume overload, and impaired lung dynamics in the 
setting of ascites. Yet, despite clearing of his mental status, 
improvement of volume status with HD, and large volume 
paracenteses it was not possible to wean him off of the 
ventilator. He remained intubated for more than two weeks with a 
likely contribution from respiratory muscle weakness in the 
setting of prolonged intubation. He had ongoing thick secretions 
requiring repeated bronchoscopies for clearance of mucous 
plugging and LLL collapse. Tracheostomy was discussed with the 
patient and family. The patient clearly indicated that he did 
not want a tracheostomy, nor did he want to remain intubated. 
Rather, he made it clear that he wanted to be extubated to 
comfort care. He was extubated on the evening of ___ and 
passed within a few hours. Family was at bedside. 

# Renal failure: Mr. ___ was noted to have progressively 
worsening renal function prior to MICU transfer, consistent with 
hepatorenal syndrome. He was started on midodrine and octreotide 
as well as albumin. His renal failure progressed requiring 
dialysis and a dialysis line was placed ___. He continued on 
CVVH while in the ICU and was ultimately transitioned to 
intermittent HD. His HD line was removed as noted above in the 
setting of persistent leukocytosis for a line holiday. A 
temporary line was replaced given ongoing dialysis needs. He 
required pressors in the ICU in order to tolerate fluid removal 
with HD.  
 
# MSSA pneumonia: Noted to have MSSA pneumonia from sputum 
culture on ___. He was initially treated with Vancomycin 
pending sensitivities. However, he was continued on Vancomycin 
despite penicillin sensitivity in order to prevent inducible 
serratia resistance in the setting of serratia UTI, as below. He 
completed a course of antibiotics on ___, though antibiotics 
were continued as noted above in the setting of ongoing 
leukocytosis. 

# E.coli bacteremia: E.coli noted on blood culture on ___. He 
was initially treated with Meropenem for GNR bacteremia and 
completed a 2 week course of meropenem on ___, though 
antibiotics were continued in the setting of persistent 
leukocytosis as above and concern for ongoing gut translocation. 


# Serratia UTI: Noted on urine culture on ___. He was treated 
with a course of meropenem.

# Atrial flutter/fib: MICU course was complicated by recurrent 
episodes of atrial fibrillation and flutter. This initially 
occurred in the setting of volume removal with CVVH and 
responded well to doses of metoprolol or diltiazem. He developed 
atrial fibrillation with hypotension requiring pressors later in 
his ICU course during bronchoscopy, requiring amiodarone. He was 
continued on amiodarone until his he was transitioned to comfort 
measures. 

# Ileus: Mr. ___ malnutrition was noted while he was on the 
floor and prior to MICU transfer. After intubation an NGT was 
placed and tube feeds were initiated. He had high residuals that 
precluded goal tube feeding. CT A/P did not reveal obstructive 
pathology. Concern for potential peritonitis causing ileus, 
though ileus persisted despite negative peritoneal cultures. 
Ileus did not improve with reglan. He was started on TPN. A 
dophoff was placed, advanced post-pyloric by ___. 

# Decompensated Cirrhosis: Mr. ___ had worsening liver failure 
with rising bilirubin and MELD score throughout his hospital 
stay in the setting of multiple complications as noted below. 
Also with renal failure requiring HD. MICU team and liver 
attending had ongoing family meetings regarding potential for 
liver/kidney transplant. As his hospital course progressed it 
became increasingly clear that he would not recover to be well 
enough for a transplant. His family struggled to come to terms 
with this. Ultimately he indicated that he wanted to be 
extubated to CMO and passed within a few hours. Family was at 
bedside. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Loratadine 10 mg PO DAILY PRN allergic symptoms 
2. Rifaximin 550 mg PO BID 
3. Nadolol 10 mg PO DAILY 
4. Sodium Polystyrene Sulfonate 15 gm PO 2X/WEEK (___) 
5. Methimazole 15 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Fenofibrate 200 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Humalog ___ 20 Units Bedtime
10. Vitamin D 1000 UNIT PO DAILY 
11. Fish Oil (Omega 3) 1000 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
Patient deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Diuretic refractory ascites
Severe malnutrition

SECONDARY DIAGNOSES
NASH cirrhosis 
Atrial fibrillation 
Type 2 Diabetes
Coronary Artery Disease
Hyperthyroidism
Renal insufficiency 

 
Discharge Condition:
Patient deceased
 
Discharge Instructions:
Patient Deceased
 
Followup Instructions:
___